US06521259B1
Ephedrine as Augmenting Agent
Microspheres containing bupivacaine loaded to about 75 percent by weight with bupivacaine are prepared, in a percent loading of about 0.05 percent, by weight, using the methods described in EXAMPLES 1-3 or EXAMPLES 4-9, above. In addition, microspheres containing added epinephrine, in a percent loadings of 0.001 percent, 0.05 percent and 1 percent, without bupivacaine, are also prepared according to EXAMPLES 1-3 or EXAMPLES 4-9, above.

reactant | bupivacaine | CCCCN1CCCCC1C(=O)NC=2C(=CC=CC2C)C | C18H28N2O
reactant | epinephrine | CNC[C@@H](C=1C=CC(=C(C1)O)O)O | C9H13NO3
product | Ephedrine | C[C@@H]([C@@H](C=1C=CC=CC1)O)NC | C10H15NO
